US07728029B2
A solution of 1-tert-butyl-5-methyl-1H-pyrazole-4-carboxylic acid methyl ester (2.0 g, 10.19 mmol) in methanol (6.8 mL) cooled to 0° C. was treated dropwise with a 4N aqueous sodium hydroxide solution (5.1 mL, 20.4 mmol). The reaction was allowed to slowly warm to 25° C. The reaction was stirred at 25° C. overnight. At this time, the reaction was concentrated in vacuo to remove methanol. The residue was diluted with water (25 mL) and was then extracted with ethyl acetate (1×25 mL). The aqueous layer was then acidified to pH=1 with a 3N aqueous hydrochloric acid solution. The resulting precipitate was collected by filtration, washed with water and hexanes, and then dried in vacuo to afford 1-tert-butyl-5-methyl-1H-pyrazole-4-carboxylic acid (1.43 g, 78%) as a white solid.

reactant | 1-tert-butyl-5-methyl-1H-pyrazole-4-carboxylic acid methyl ester | 10.19 mmol, 2.0 g | COC(=O)C=1C=NN(C1C)C(C)(C)C | C10H16N2O2
reactant | sodium hydroxide | 20.4 mmol, 4N, 5.1 mL | [OH-].[Na+]
solvent | methanol | 6.8 mL | CO | CH4O
product | 1-tert-butyl-5-methyl-1H-pyrazole-4-carboxylic acid | 1.43 g, 78% | C(C)(C)(C)N1N=CC(=C1C)C(=O)O | C9H14N2O2
